US07741327B2
In a round bottom flask was placed 2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-N-[1-((R)-2,2-dimethyl-[1,3]dioxolan-4-yl-methyl)-1-H-pyrazol-3-yl]-4,4,4-trifluoro-butyramide (164 mg, 0.31 mmol), methanol (5 mL) and p-toluenesulfonic acid monohydrate (15 mg). The mixture was stirred at 25° C. for 16 h and then concentrated in vacuo with silica gel (1.3 g). Purification by Biotage flash chromatography (Aspire column, 100% ethyl acetate to 5% methanol/ethyl acetate) afforded 2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-N-[1-((R)-2,3-dihydroxy-propyl)-1H-pyrazol-3-yl]-4,4,4-trifluoro-butyramide (116 mg, 77%) as a white foam: HR-ES-MS m/z calculated for C20H20N4O5ClF3 [M+H]+ 489.1147, observed 489.1148; 1H NMR (300 MHz, DMSO-d6) δ ppm 2.80-3.13 (m, 2H), 3.20-3.32 (m, 2H), 3.70-3.81 (m, 1H), 3.87 (dd, J=13.4, 7.5 Hz, 1H), 4.10 (dd, J=13.4, 3.9 Hz, 1H), 4.38 (s, 2H), 4.72 (t, J=5.6 Hz, 1H), 4.84 (s, 1H), 4.95 (d, J=5.4 Hz, 1H), 5.18 (dd, J=9.4, 3.9 Hz, 1H), 6.43 (d, J=2.1 Hz, 1H), 7.31-7.41 (m, 1H), 7.42-7.53 (m, 2H), 7.56 (d, J=2.1 Hz, 1H), 7.65 (d, J=8.2 Hz, 1H), 10.92 (s, 1H).

reactant | 2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-N-[1-((R)-2,2-dimethyl-[1,3]dioxolan-4-yl-methyl)-1-H-pyrazol-3-yl]-4,4,4-trifluoro-butyramide | 0.31 mmol, 164 mg | ClC1=C(OC2=CC(N(C2)C(C(=O)NC2=NN(C=C2)C[C@H]2OC(OC2)(C)C)CC(F)(F)F)=O)C=CC=C1 | C23H24ClF3N4O5
reactant | p-toluenesulfonic acid monohydrate | 15 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | 5 mL | CO | CH4O
product | 2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-N-[1-((R)-2,3-dihydroxy-propyl)-1H-pyrazol-3-yl]-4,4,4-trifluoro-butyramide | 116 mg, 77% | ClC1=C(OC2=CC(N(C2)C(C(=O)NC2=NN(C=C2)C[C@H](CO)O)CC(F)(F)F)=O)C=CC=C1 | C20H20ClF3N4O5
